US07368445B2
D. Preparation of 1-(2-Chloro-ethyl)-7-[2-[6-methyl-(pyridin-2-yl)]-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1H-quinoxalin-2-one
Cool a solution of 2-{7-[2-[6-methyl-(pyridin-2-yl)]-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoxalin-2-yloxy}-ethanol (0.5 g, 1.3 mmol) and diisopropylamine (0.5 ml) in dry dichloromethane (10 mL) to −30° C. Add methanesulfonylchloride (0.5 ml) dropwise to the solution and stir the resulting mixture for 30 min while allowing the reaction mixture to warm to room temperature. Add 5 N hydrochloric acid (0.2 mL) and pyridine (1 mL) to the mixture and heat at 80° C. for 3 h. Dilute the reaction mixture with 1:1 chloroform/isopropyl alcohol and wash the solution with saturated sodium chloride solution. Dry the organic layer (sodium sulfate), filter, and evaporate the solvents. Purify the residue by silica gel chromatography (dichloromethane to 1:1 dichloromethane/methanol) to give 274 mg (68%) of the titled compound. MS ES+ 407 (M+1).

reactant | 2-{7-[2-[6-methyl-(pyridin-2-yl)]-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoxalin-2-yloxy}-ethanol | 1.3 mmol, 0.5 g | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=C1N=CC(=NC1=C2)OCCO | C22H21N5O2
reactant | diisopropylamine | 0.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | methanesulfonylchloride | 0.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 5 N, 0.2 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | chloroform isopropyl alcohol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2-Chloro-ethyl)-7-[2-[6-methyl-(pyridin-2-yl)]-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1H-quinoxalin-2-one | 274 mg, 68% | ClCCN1C(C=NC2=CC=C(C=C12)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2)=O | C22H20ClN5O
